US05661014
A 500 ml jacketed biotransformation vessel as charged with 0.1M KH2PO4, pH 7.0 (250 ml) and methyl 4-(4-aminophenyl)4-cyanohexanoate (5.0 g, 20.3 mmol). Candida cylindracea lipase (CCL; 5.0 g) was introduced and the mixture was agitated using an overhead stirrer. Temperature was maintained at 30° C. with the aid of a thermocirculator and the pH controlled by a probe linked to an autotitrator. The biotransformation was allowed to proceed until 10 ml of 1M NaOH had been added (equivalent to 50% conversion). This took about 3 hours. At this point, the biotransformation was quenched by the addition of NaCl (25 g) and the resulting mixture was extracted with diethyl ether (250 ml×4). The pH of the aqueous solution was then adjusted to 3 using conc. HCl and the mixture extracted with ethyl acetate (400 ml×3). The extracts were pooled, dried and concentrated under reduced pressure, yielding 1.8 g (38%) of 4-(4-aminophenyl)-4-cyanohexanoic acid, enriched in the (R)-enantiomer, in the form of a brown oil. Without further treatment, a sample of this material was reacted as described in Example 10.

reactant | KH2PO4 | 0.1M | OP(=O)(O)[O-].[K+]
reactant | methyl 4-(4-aminophenyl)4-cyanohexanoate | 20.3 mmol, 5.0 g | NC1=CC=C(C=C1)C(CCC(=O)OC)(CC)C#N | C14H18N2O2
solvent | NaOH | 1M, 10 ml | [OH-].[Na+]
product | 4-(4-aminophenyl)-4-cyanohexanoic acid | 1.8 g, 38% | NC1=CC=C(C=C1)C(CCC(=O)O)(CC)C#N | C13H16N2O2
